US08470843B2
Step C: (5RS,6RS)-8-(2-Chloro-benzenesulfonyl)-6-hydroxy-2-[4-((rac)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one
The title compound was prepared in analogy to example 2 step B from a mixture of (5SR,6RS)-6-hydroxy-2-[4-((rac)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one and 2-chloro-benzenesulfonyl chloride. Light yellow solid. MS (ESI): 533.1 (MH+)

reactant | (5SR,6RS)-6-hydroxy-2-[4-((rac)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one | OC1C2(CCN(C2=O)C2=CC=C(C=C2)OC(C(F)(F)F)C)CCNC1 | C17H21F3N2O3
reactant | 2-chloro-benzenesulfonyl chloride | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (5RS,6RS)-8-(2-Chloro-benzenesulfonyl)-6-hydroxy-2-[4-((rac)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one | ClC1=C(C=CC=C1)S(=O)(=O)N1CC(C2(CCN(C2=O)C2=CC=C(C=C2)OC(C(F)(F)F)C)CC1)O | C23H24ClF3N2O5S
